US08211908B2
To a suspension of 10 g of 2,6-dichloro-5-fluoronicotinic acid in 30 mL of toluene, 8.5 g of thionyl chloride and 0.10 mL of N,N-dimethylformamide were added, and the mixture was stirred at 72° C. for 1 hour 30 minutes. The reaction mixture was cooled to room temperature, and the solvent was distilled off under reduced pressure. The resultant residue was dropped to 30 mL of 25% ammonium water at −20° C. The temperature was increased to 5 C.°, and the mixture was stirred for 30 minutes. The solid was filtered off to obtain 9.9 g of 2,6-dichloro-5-fluoronicotinamide as a white solid.

reactant | 2,6-dichloro-5-fluoronicotinic acid | 10 g | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
reactant | thionyl chloride | 8.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.10 mL | CN(C=O)C | C3H7NO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2,6-dichloro-5-fluoronicotinamide | 9.9 g | ClC1=C(C(=O)N)C=C(C(=N1)Cl)F | C6H3Cl2FN2O
